US08048902B2
Step 2: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-phenyl-ethyl ester
5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid (25 g, 88.7 mmol) in toluene (500 mL) was added triethylamine (18.5 mL, 133 mmol), followed by diphenylphosphoryl azide (22.1 mL, 101.9 mmol). (R)-(+)-1-Phenylethyl alcohol (11.9 mL, 97.5 mmol) was added, and the reaction was stirred at 75° C. for 2 hours. The mixture was partitioned between EtOAc and H2O and filtered through Celite. The aqueous layer was extracted with EtOAc, and the combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid | 88.7 mmol, 25 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)O | C11H8BrNO3
reactant | triethylamine | 133 mmol, 18.5 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 101.9 mmol, 22.1 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | (R)-(+)-1-Phenylethyl alcohol | 97.5 mmol, 11.9 mL | C1(=CC=CC=C1)[C@@H](C)O | C8H10O
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-phenyl-ethyl ester | C1(=CC=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H17BrN2O3
